US09326515B2
To a solution of 2-phenylethyl (4-{[({(1Z,2Z)-2-[ethyl(hydroxy)amino]-2-imino-1-phenylethylidene}amino)oxy]methyl}-1,3-thiazol-2-yl)carbamate (160 mg, 71% purity, 0.24 mmol, 1 eq.) in acetonitrile (3 ml), was added 1,1′-carbonyldiimidazole (555 mg, 0.342 mmol, 1.4 eq.). After stirring at 80° C. for 6 hour, the reaction was quenched by addition of water and extracted with EtOAc. The organics were combined, dried over MgSO4 and concentrated. The residue was purified by chromatography on silica gel to give 3-[(Z)-{[(2-amino-1,3-thiazol-4-yl)methoxy]imino}(phenyl)methyl]-2-ethyl-1,2,4-oxadiazol-5(2H)-one (70 mg, 55% yield).

reactant | 2-phenylethyl (4-{[({(1Z,2Z)-2-[ethyl(hydroxy)amino]-2-imino-1-phenylethylidene}amino)oxy]methyl}-1,3-thiazol-2-yl)carbamate | 0.24 mmol, 160 mg, 1 eq. | C(C)N(\C(\C(\C1=CC=CC=C1)=N/OCC=1N=C(SC1)NC(OCCC1=CC=CC=C1)=O)=N/[H])O | C23H25N5O4S
reactant | 1,1′-carbonyldiimidazole | 0.342 mmol, 555 mg, 1.4 eq. | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 3-[(Z)-{[(2-amino-1,3-thiazol-4-yl)methoxy]imino}(phenyl)methyl]-2-ethyl-1,2,4-oxadiazol-5(2H)-one | 70 mg, 55% yield | NC=1SC=C(N1)CO\N=C(/C=1N(OC(N1)=O)CC)\C1=CC=CC=C1 | C15H15N5O3S
